US07265148B2
A mixture of ethyl 1-benzyl-3-bromo-5-nitro-1H-indole-2-carboxylate (0.40 g, 1 mmol), 4-tert-butylbenzeneboronic acid (0.36 g, 2 mmol), 2 M aqueous sodium carbonate (5 mL), tetrakis(triphenylphosphine)palladium (0) (0.20 g, 0.17 mmol) in ethanol (5 mL) and toluene (5 ml) was heated at 65° C. for 16 h and then cooled. The reaction mixture was diluted with 1 N hydrochloric acid and then extracted with ethyl acetate. The organic extracts were washed with water, dried over magnesium sulfate and concentrated. Flash silica gel chromatography using 5˜25% ethyl acetate/hexane gave 0.41 g (90%) of ethyl 1-benzyl-3-(4-tert-butylphenyl)-5-nitro-1H-indole-2-carboxylate as a yellowish solid: 1H NMR (DMSO-d6) δ 0.92 (t, J=7.0 Hz, 3 H), 1.36 (s, 9 H),4.10 (q, J=7.0 Hz, 2 H), 5.89 (s, 2H), 7.09 (d, J=8.4 Hz, 2 H), 7.22-7.45 (m, 3 H), 7.95 (d, J=7.6 Hz, 2 H), 7.54 (d, J=8.5 Hz, 2 H), 7.91 (d, J=11.2 Hz, 1H), 8.22 (dd, J=11.2, 2.1 Hz, 1 H), 8.37 (d, J=2.1 Hz, 1 H); MS (ESI) m/z 457 (MH+); HRMS calcd for C29H29N2O4: 457.2128; found (ESI+): 457.2114; Anal. calcd for C28H28N2O4: C, 73.66; H, 6.18; N, 6.14. Found: C, 73.48; H, 6.30; N, 5.97.

reactant | ethyl 1-benzyl-3-bromo-5-nitro-1H-indole-2-carboxylate | 1 mmol, 0.40 g | C(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)[N+](=O)[O-])Br)C(=O)OCC | C18H15BrN2O4
reactant | 4-tert-butylbenzeneboronic acid | 2 mmol, 0.36 g | C(C)(C)(C)C1=CC=C(C=C1)B(O)O | C10H15BO2
reactant | sodium carbonate | 2 M, 5 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | hydrochloric acid | 1 N | Cl | ClH
catalyst | tetrakis(triphenylphosphine)palladium | 0.17 mmol, 0.20 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ethyl 1-benzyl-3-(4-tert-butylphenyl)-5-nitro-1H-indole-2-carboxylate | 0.41 g, 90% | C(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)[N+](=O)[O-])C1=CC=C(C=C1)C(C)(C)C)C(=O)OCC | C28H28N2O4
